Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right Thigh Pain
 
Major Surgical or Invasive Procedure:
Intramedullary nailing, right transverse femoral shaft fracture

 
History of Present Illness:
___ transferred from ___ with R transverse midshaft femur fx s/p 
MVC vs rock wall. +smoking cocaine earlier in the afternoon on 
___. Pan-scan negative. Ortho consulted. Denies 
numbness/tingling or weakness.

 
Past Medical History:
None
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
On Admission:
Vitals: AVSS
General: NAD, A&Ox3
Musculoskeletal:

Right Lower Extremity:
+obvious deformity
Skin clean - no open cuts
Thigh and leg compartments soft and compressible
Fires ___
Sensation intact to light touch sural, saphenous, tibial,
superficial and deep peroneal nerve distributions
1+ dorsal pedis and posterior tibial pulses

Left Lower extremity
Skin clean - no abrasions, induration, ecchymosis
Thigh and leg compartments soft and compressible
Fires ___
Sensation intact to light touch sural, saphenous, tibial,
superficial and deep peroneal nerve distributions
1+ dorsal pedis and posterior tibial pulses

On Discharge:
General - Awake and alert. NAD. Sitting up in bed. Quite 
friendly.
RLE
- Wound intact with staples in place. No erythema, edema, 
discharge, or tenderness to palpation.
- SILT throughout extremity
- (+) DP pulse
- (+) ___ FHL TA GSC
 
Pertinent Results:
Per ACS Consult Note:
*OSH reads*: 
CT head: no acute intracranial process
CT c-spine: no acute fracture
CT torso: no acute process within the thorax or abdomen/pelvis.
MSK films: LUE: no fracture or dislocation of the LUE.

___ 06:30AM BLOOD WBC-10.9 RBC-3.64* Hgb-11.5* Hct-32.6* 
MCV-90 MCH-31.6 MCHC-35.2* RDW-13.8 Plt ___

___ 04:35AM BLOOD Glucose-127* UreaN-11 Creat-0.9 Na-136 
K-3.6 Cl-98 HCO3-30 AnGap-12
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have right femoral shaft fracture. After evaluation by the 
acute care surgery team, it was determined that the patient had 
no other injuries. He was, therefore, admitted to the orthopedic 
surgery service.  The patient was taken to the operating room on 
___ for open reduction and internal fixation of his right 
femur with intramedullary nail, which the patient tolerated well 
(for full details please see the separately dictated operative 
report). The patient was taken from the OR to the PACU in stable 
condition and after recovery from anesthesia was transferred to 
the floor.  The patient was initially given IV fluids and IV 
pain medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given perioperative 
antibiotics and anticoagulation per routine.  The patient worked 
with ___ who determined that discharge to home without further ___ 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is weight bearing as tolerated in the 
right lower extremity, and will be discharged on enoxaparin for 
DVT prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H 
Never exceed 4000 mg in 24 hours 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. Enoxaparin Sodium 40 mg SC QHS Duration: 2 Weeks 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Last dose ___ 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc at bedtime Disp #*12 
Syringe Refills:*0
4. Multivitamins 1 CAP PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*100 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right femoral shaft (thigh bone) fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- You may bear weight as tolerated to the right lower extremity
 
Followup Instructions:
___